US08440689B2
(R)-tert-Butyl 1-methoxy-3-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)propan-2-ylcarbamate
To a round-bottomed flask was added (R)-methyl 6-(2-(tert-butoxycarbonylamino)-3-methoxypropylamino)-4-cyano-2-(m-tolylamino)nicotinate (84.5 mg, 0.180 mmol) in acetic acid (3 mL) and DCM (10 mL). To the resulting yellow solution was added platinum(IV) oxide (4.09 mg, 0.018 mmol). The flask was evacuated and back filled with hydrogen (3×1 atm). The reaction mixture was stirred vigorously at RT for 16 h, subsequently diluted with DCM (10 mL), and filtered through Celite. The filtrate was concentrated to an oil, which was diluted with DCM (10 mL). Potassium carbonate (24.87 mg, 0.180 mmol) was added and the reaction mixture was stirred at RT for 12 h. The crude reaction was diluted with DCM (10 mL), filtered through Celite, and concentrated to give the title compound as a thick yellow oil, which was used without further purification (26.5 mg, 33.4%). [M+H] calc'd for C23H31N5O4, 442. found, 442.

reactant | (R)-methyl 6-(2-(tert-butoxycarbonylamino)-3-methoxypropylamino)-4-cyano-2-(m-tolylamino)nicotinate | 0.180 mmol, 84.5 mg | C(C)(C)(C)OC(=O)N[C@H](CNC1=NC(=C(C(=O)OC)C(=C1)C#N)NC=1C=C(C=CC1)C)COC | C24H31N5O5
reactant | Potassium carbonate | 0.180 mmol, 24.87 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | platinum(IV) oxide | 0.018 mmol, 4.09 mg | [Pt](=O)=O
product | (R)-tert-Butyl 1-methoxy-3-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)propan-2-ylcarbamate | COC[C@@H](CNC1=CC2=C(C(=N1)NC=1C=C(C=CC1)C)C(NC2)=O)NC(OC(C)(C)C)=O | C23H31N5O4
